US07893090B2
(RS)-1-[5-(4-Fluoro-phenyl)-2-methyl-thiazol-4-yl]-1-(2-furo[2,3-b]pyridin-2-ylmethyl-piperidin-1-yl)-methanone
The title compound was prepared, using the method of Example 4, from 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid (0.171 g, 0.72 mmol) and (RS)-2-piperidin-2-ylmethyl-furo[2,3-b]pyridine, D11 (0.13 g, 0.60 mmol) as a colourless solid (0.129 g, 49%).

reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid | 0.72 mmol, 0.171 g | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)O | C11H8FNO2S
reactant | (RS)-2-piperidin-2-ylmethyl-furo[2,3-b]pyridine | N1C(CCCC1)CC1=CC=2C(=NC=CC2)O1 | C13H16N2O
product | (RS)-1-[5-(4-Fluoro-phenyl)-2-methyl-thiazol-4-yl]-1-(2-furo[2,3-b]pyridin-2-ylmethyl-piperidin-1-yl)-methanone | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)N1C(CCCC1)CC1=CC=2C(=NC=CC2)O1 | C24H22FN3O2S
